US09034880B2
To a solution of 8-chloro-6-fluoro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (300 mg, 1.26 mmol) in NMP (3.0 ml), powdered KOH (705 mg, 12.57 mmol) was added and stirred for 10 min at 25 deg C. After which 2-(trifluoromethyl)-5-vinylpyridine (435 mg, 2.5 mmol) was added slowly to the above solution and stirred for 24 h at 25 deg C. After completion of the reaction (monitored by LCMS), DM water was added to the crude and extracted with the ethylacetate. The organic layer was separated, dried and concentrated. The resulting crude was purified by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL) to obtain 15 mg of 8-chloro-6-fluoro-5-(2-(6-(trifluoromethyl) pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole as TFA salt.

reactant | 8-chloro-6-fluoro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | 1.26 mmol, 300 mg | ClC1=CC=2C3=C(NC2C(=C1)F)CCN(C3)C | C12H12ClFN2
reactant | KOH | 12.57 mmol, 705 mg | [OH-].[K+]
reactant | 2-(trifluoromethyl)-5-vinylpyridine | 2.5 mmol, 435 mg | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
reactant | water | O | H2O
solvent | NMP | 3.0 ml | CN1CCCC1=O | C5H9NO
product | 8-chloro-6-fluoro-5-(2-(6-(trifluoromethyl) pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | 15 mg | ClC1=CC=2C3=C(N(C2C(=C1)F)CCC=1C=NC(=CC1)C(F)(F)F)CCN(C3)C | C20H18ClF4N3
